US07429660B2
1-Bromo-4-methoxymethoxy-thianthrene
To a cooled (0° C.) solution of 4-Bromo-thianthren-1-ol (1.0 g, 3.21 mmol) in DMF (12 ml) was added NaH (60% dispersed in mineral oil, 0.23 g, 9.63 mmol) portionwise over 30 minutes and stirred for a further 30 minutes at this temperature. Chloromethylmethylether (0.26 g, 3.241 mmol) was then added and the reaction allowed to stir at room temperature for 2 hours. Water was added to the mixture which was then extracted using EtOAc (3×50 ml). The combined organic extracts were then dried (MgSO4), filtered and concentrated in vacuo to give a mild amber liquid. The crude residue was purified by flash chromatography (SiO2) (10:1, Hexanes/EtOAc) to give the title compound as a mild amber oil that crystallised upon standing (1.11 g, 97%). m/z (LC-MS, ESP):, RT=5.55 min, (M++1)=355.

reactant | 4-Bromo-thianthren-1-ol | 3.21 mmol, 1.0 g | BrC1=CC=C(C=2SC3=CC=CC=C3SC12)O | C12H7BrOS2
reactant | NaH | 9.63 mmol, 0.23 g | [H-].[Na+]
reactant | Chloromethylmethylether | 3.241 mmol, 0.26 g | ClCOC | C2H5ClO
reactant | Water | O | H2O
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 1-Bromo-4-methoxymethoxy-thianthrene | BrC1=CC=C(C=2SC3=CC=CC=C3SC12)OCOC | C14H11BrO2S2
